### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/PiTensorProduct): some more functoriality properties of `PiTensorProduct`

### PR DESCRIPTION
**Pull request by smorel394**
* Prove some properties of `PiTensorProduct.map`, for example the compatibility with composition and reindeixing, and the fact that it sends the identity to the identity. 
* Construct `PiTensorProduct.map` as a `MultilinearMap` on the family of linear maps.
* Upgrade `PiTensorProduct.map f` to a linear equivalence called `PiTensorProduct.congr f` when `f` is a family of linear equivalences. 
* For `ι` a `Fintype`, define the canonical linear equivalence (given by multiplication) `constantBaseRingEquiv`  from `⨂ i : ι, R` and `R`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 1]
```diff
@@ -349,6 +349,13 @@ theorem ext {φ₁ φ₂ : (⨂[R] i, s i) →ₗ[R] E}
     exact MultilinearMap.congr_fun H f
 #align pi_tensor_product.ext PiTensorProduct.ext
 
+/-- The pure tensors (i.e. the elements of the image of `PiTensorProduct.tprod`) span
+the tensor product.-/
+theorem span_tprod_eq_top : Submodule.span R { t | ∃ (m : (i : ι) → s i), tprod R m = t } = ⊤ :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:354]: I think slightly cleaner to use `Set.range` here
```suggestion
theorem span_tprod_eq_top :
    Submodule.span R (Set.range (tprod R)) = (⊤ : Submodule R (⨂[R] i, s i)) :=
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 2]
```diff
@@ -463,17 +471,99 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
 
-@[simp] lemma map_tprod (f : Π i, s i →ₗ[R] t i) (x : Π i, s i) :
+@[simp] lemma map_tprod (x : Π i, s i) :
     map f (tprod R x) = tprod R fun i ↦ f i (x i) :=
   lift.tprod _
 
+-- No lemmas about associativity, because we don't have associativity of `PiTensorProduct` yet.
+
+theorem map_range_eq_span_tprod : LinearMap.range (map f) =
+    Submodule.span R { t | ∃ (m : (i : ι) → s i), tprod R (fun i ↦ f i (m i)) = t } := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:484]: nit: if you wrap the statement, you should wrap after the first `:` too:
```suggestion
theorem map_range_eq_span_tprod :
    LinearMap.range (map f) =
      Submodule.span R { t | ∃ (m : (i : ι) → s i), tprod R (fun i ↦ f i (m i)) = t } := by
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 3]
```diff
@@ -463,17 +471,99 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+  simp only [← Submodule.map_top, ← span_tprod_eq_top, Submodule.map_span]
+  congr; ext t
+  simp only [Set.mem_image, Set.mem_setOf_eq, exists_exists_eq_and, map_tprod]
+
+/-- Given submodules `p i ⊆ s i`, this is the natural map: `⨂[R] i, p i → ⨂[R] i, s i`. -/
+@[simp]
+def mapIncl (p : (i : ι) → Submodule R (s i)) : (⨂[R] i, p i) →ₗ[R] ⨂[R] i, s i :=
+  map (fun (i : ι) ↦ (p i).subtype)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:492]: I'm not convinced this is necessarily worth giving a name, but another reviewer can tie-break

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 4]
```diff
@@ -463,17 +471,99 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+
+theorem map_comp : map (fun (i : ι) ↦ (g i).comp (f i)) = (map g).comp (map f) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:494]: Can you use `\comp\_l` notation here?

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 5]
```diff
@@ -463,17 +471,99 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+theorem map_id : map (fun (i : ι) ↦ (LinearMap.id : s i →ₗ[R] s i))  = .id := by
+  ext
+  simp only [LinearMap.compMultilinearMap_apply, map_tprod, LinearMap.id_coe, id_eq]
+
+@[simp]
+theorem map_one : map (fun (i : ι) ↦ (1 : s i →ₗ[R] s i)) = 1 :=
+  map_id
+
+theorem map_mul (f₁ f₂ : Π i, s i →ₗ[R] s i)  :
+    map (fun (i : ι) ↦ (f₁ i) * (f₂ i)) = map f₁ * map f₂ :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:516]:
```suggestion
    map (fun i ↦ f₁ i * f₂ i) = map f₁ * map f₂ :=
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 6]
```diff
@@ -463,17 +471,99 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+  map_comp f₁ f₂
+
+@[simp]
+protected theorem map_pow (f : Π i, s i →ₗ[R] s i) (n : ℕ) : map f ^ n = map (f ^ n) := by
+  induction' n with n ih
+  · simp only [Nat.zero_eq, pow_zero]; rw [← map_one]; rfl
+  · simp only [pow_succ', ih]; rw [← map_mul]; rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:523]: This can proved in one line if you show that `map` is a `RingHom`

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 7]
```diff
@@ -463,17 +471,99 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+  simp only [LinearMap.compMultilinearMap_apply, map_tprod, map_add_smul_aux, LinearMap.smul_apply,
+    MultilinearMap.map_smul]
+
+variable (R s t)
+
+/-- The tensor of a family of linear maps from `sᵢ` to `tᵢ`, as a multilinear map of
+the family.
+-/
+noncomputable def mapMultilinear :
+    MultilinearMap R (fun (i : ι) ↦ (s i →ₗ[R] t i)) ((⨂[R] i, s i) →ₗ[R] ⨂[R] i, t i) where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:553]:
```suggestion
    MultilinearMap R (fun (i : ι) ↦ s i →ₗ[R] t i) ((⨂[R] i, s i) →ₗ[R] ⨂[R] i, t i) where
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 8]
```diff
@@ -463,17 +471,99 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+  ext x
+  simp only [LinearMap.compMultilinearMap_apply, map_tprod, map_add_smul_aux, LinearMap.smul_apply,
+    MultilinearMap.map_smul]
+
+variable (R s t)
+
+/-- The tensor of a family of linear maps from `sᵢ` to `tᵢ`, as a multilinear map of
+the family.
+-/
+noncomputable def mapMultilinear :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:552]:
```suggestion
@[simps]
noncomputable def mapMultilinear :
```
then you can drop the lemma below.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 9]
```diff
@@ -490,6 +580,28 @@ lemma piTensorHomMap_tprod_eq_map (f : Π i, s i →ₗ[R] t i) :
     piTensorHomMap (tprod R f) = map f := by
   ext; simp
 
+/-- If `s i` and `s' i` are linearly equivalent for every `i` in `ι`, then `⨂[R] i, s i` and
+`⨂[R] i, s' i` are linearly equivalent.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:584]:
```suggestion
`⨂[R] i, s' i` are linearly equivalent.

This is the n-ary version of `TensorProduct.congr`
```

**Review by eric-wieser — COMMENTED** [review]
Out of time for now, will try to review the rest tomorrow.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:494]: I only gave it a name because of the existence of  [`TensorProduct.mapIncl`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct.html#TensorProduct.mapIncl),

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 4 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:496]: Done.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 5 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Done.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 6 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:525]: Okay, but then we should also prove the corresponding result for [`TensorProduct.map`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct.html#TensorProduct.map), to get a shorter proof of [`TensorProduct.map_pow`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct.html#TensorProduct.map_pow).

Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:525]: Wait, now that the coffee kicked in, I have to ask: a `RingHom` from what to what ? Since `map` is multilinear in the `f i`, the only possibility I see is to prove that the lift of `mapMultilinear` is a `RingHom` from `(⨂[R] i, s i →ₗ[R] s i)` to `((⨂[R] i, s i) →ₗ[R] ⨂[R] i, s i)`, but I don't know if that's what you meant.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:525]: I think I must have meant a MonoidHom

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:494]: Ah, that's a good enough reason; can you reference that in the docstring?

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 6 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Like so ? I now question whether we should have `map_pow` at all, since the prood is literally `MonoidHom.map_pow`.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Done.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 6 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Indeed the linter is complaining that `map_pow` can now be proved by `simp`, and I agree with it for once.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 10]
```diff
@@ -463,17 +472,104 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+protected theorem map_pow (f : Π i, s i →ₗ[R] s i) (n : ℕ) :
+    map (f ^ n) = map f ^ n := MonoidHom.map_pow mapMonoidHom _ _
+
+open Function in
+theorem map_add_smul_aux [DecidableEq ι] (i : ι) (x : Π i, s i) (u : s i →ₗ[R] t i) :
+    (fun (j : ι) ↦ (update f i u j) (x j)) = update (fun (j : ι) ↦ (f j) (x j)) i (u (x i)) := by
+  ext j
+  by_cases h : j = i
+  · rw [h]; simp only [update_same]
+  · simp only [ne_eq, h, not_false_eq_true, update_noteq]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:539]:
```suggestion
  exact apply_update (fun i F => F (x i)) f i u j
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 11]
```diff
@@ -463,17 +472,104 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
-@[simp] lemma map_tprod (f : Π i, s i →ₗ[R] t i) (x : Π i, s i) :
+@[simp] lemma map_tprod (x : Π i, s i) :
     map f (tprod R x) = tprod R fun i ↦ f i (x i) :=
   lift.tprod _
 
+-- No lemmas about associativity, because we don't have associativity of `PiTensorProduct` yet.
+
+theorem map_range_eq_span_tprod :
+    LinearMap.range (map f) =
+      Submodule.span R { t | ∃ (m : (i : ι) → s i), tprod R (fun i ↦ f i (m i)) = t } := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:486]: For consistency, I'd encourage you to use
```suggestion
      Submodule.span R { t | ∃ (m : Π i, s i), tprod R (fun i ↦ f i (m i)) = t } := by
```
everywhere that you're changing this file

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 12]
```diff
@@ -463,17 +472,104 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+
+open Function in
+theorem map_add [DecidableEq ι] (i : ι) (u v : s i →ₗ[R] t i) :
+    map (update f i (u + v)) = map (update f i u) + map (update f i v) := by
+  ext x
+  simp only [LinearMap.compMultilinearMap_apply, map_tprod, map_add_smul_aux, LinearMap.add_apply,
+    MultilinearMap.map_add]
+
+open Function in
+theorem map_smul [DecidableEq ι] (i : ι) (c : R) (u : s i →ₗ[R] t i) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:549]: I think these should be `map_update_add` etc

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 13]
```diff
@@ -613,6 +733,21 @@ theorem reindex_refl : reindex R s (Equiv.refl ι) = LinearEquiv.refl R _ := by
   congr
 #align pi_tensor_product.reindex_refl PiTensorProduct.reindex_refl
 
+variable {t : ι → Type*}
+variable [∀ i, AddCommMonoid (t i)] [∀ i, Module R (t i)]
+
+/-- Re-indexing the components of the tensor product by an equivalence `e` is compatible
+with `PiTensorProduct.map`.-/
+theorem map_reindex (f : Π i, s i →ₗ[R] t i) (e : ι ≃ ι₂) :
+    map (fun i ↦ f (e.symm i)) ∘ₗ reindex R s e = reindex R t e ∘ₗ map f := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:742]: Another good lemma to have is
```lean
map_comp_reindex_symm : map f ∘ₗ (reindex R s e).symm = (reindex R t e).symm ∘ₗ map (fun i => f (e.symm i))
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 14]
```diff
@@ -613,6 +733,21 @@ theorem reindex_refl : reindex R s (Equiv.refl ι) = LinearEquiv.refl R _ := by
   congr
 #align pi_tensor_product.reindex_refl PiTensorProduct.reindex_refl
 
+variable {t : ι → Type*}
+variable [∀ i, AddCommMonoid (t i)] [∀ i, Module R (t i)]
+
+/-- Re-indexing the components of the tensor product by an equivalence `e` is compatible
+with `PiTensorProduct.map`.-/
+theorem map_reindex (f : Π i, s i →ₗ[R] t i) (e : ι ≃ ι₂) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:741]: To match `TensorProduct`, can you rename this to `map_comp_reindex`, and remove the `apply` from the other lemma?

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 15]
```diff
@@ -747,6 +882,43 @@ end Tmul
...
+open BigOperators Function
+
+variable [Fintype ι]
+
+variable (R ι)
+
+/-- The linear equivalence from the tensor product of the constant family with
+value `R` to `R`, given by multiplication of the entries.
+-/
+noncomputable def constantBaseRingEquiv : (⨂[R] (_ : ι), R) ≃ₗ[R] R := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:896]: I think this belongs in `RingTheory/PiTensorProduct`, as I believe it is an `AlgEquiv` with no stronger assumptions

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:896]: I have a version of this; I'll split it off to its own PR

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 12 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:547]: Here's my logic behind the naming: `PiTensorProduct.map` is a `MultilinearMap` (in fact, we are in the process of proving it), and these lemmas `map_add` and `map_smul` are proving the same things as `MultilinearMap.map_add` and `MultilinearMap.map_smul`. So they should have the same names.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 14 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:739]: To match `TensorProduct`, it should even be `map_comp_reindex_eq`, I believe.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 13 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:740]: Ok, I added the lemma.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 16]
```diff
@@ -613,6 +731,33 @@ theorem reindex_refl : reindex R s (Equiv.refl ι) = LinearEquiv.refl R _ := by
...
+theorem map_comp_reindex_symm (f : Π i, s i →ₗ[R] t i) (e : ι ≃ ι₂) :
+    map f ∘ₗ (reindex R s e).symm = (reindex R t e).symm ∘ₗ map (fun i => f (e.symm i)) := by
+  ext m
+  apply LinearEquiv.injective (reindex R t e)
+  simp only [LinearMap.compMultilinearMap_apply, LinearMap.coe_comp, LinearEquiv.coe_coe,
+    comp_apply, ← map_reindex, LinearEquiv.apply_symm_apply, map_tprod]
+
+@[simp]
+theorem map_reindex_symm (f : Π i, s i →ₗ[R] t i) (e : ι ≃ ι₂) (x : ⨂[R] i, s (e.symm i)) :
+    map f ((reindex R s e).symm x) = (reindex R t e).symm (map (fun i ↦ f (e.symm i)) x) :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:758]: It's not clear to me that `simp` is appropriate here, especially as you didn't put it on `map_reindex`. Was there a particular argument you had in mind for doing so?

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 12 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:548]: I guess I don't care that much, so am happy to go with that argument. I agree it's consistent.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:906]: Should I take your :+1: as an agreement that the code there replaces this? If so, can you delete this, and then I'll merge the rest of this PR.

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 16 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:758]: No, I originally put it on buth, then deleted it on `map_reindex` when I noticed it wasn't on `TensorProduct.map_comm`. Of course, there's a very good reason it's not a `TensorProduct.map_comm` and it doesn't apply here, but anyway I'll just go delete the second `simp`.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 15 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Yes, I went at your PR, it looked good to me and I didn't see anything I'd want to change in it. I deleted the definition and lemma from this PR.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 17]
```diff
@@ -463,17 +473,102 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+@[simp]
+theorem map_one : map (fun (i : ι) ↦ (1 : s i →ₗ[R] s i)) = 1 :=
+  map_id
+
+theorem map_mul (f₁ f₂ : Π i, s i →ₗ[R] s i) :
+    map (fun i ↦ f₁ i * f₂ i) = map f₁ * map f₂ :=
+  map_comp f₁ f₂
+
+/-- Upgrading `PiTensorProduct.map` to a `MonoidHom` when `s = t`.-/
+def mapMonoidHom : (Π i, s i →ₗ[R] s i) →* ((⨂[R] i, s i) →ₗ[R] ⨂[R] i, s i) where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:525]:
```suggestion
@[simps]
def mapMonoidHom : (Π i, s i →ₗ[R] s i) →* ((⨂[R] i, s i) →ₗ[R] ⨂[R] i, s i) where
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 18]
```diff
@@ -463,17 +473,102 @@ then there is an induced map `⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂
...
+
+open Function in
+theorem map_add [DecidableEq ι] (i : ι) (u v : s i →ₗ[R] t i) :
+    map (update f i (u + v)) = map (update f i u) + map (update f i v) := by
+  ext x
+  simp only [LinearMap.compMultilinearMap_apply, map_tprod, map_add_smul_aux, LinearMap.add_apply,
+    MultilinearMap.map_add]
+
+open Function in
+theorem map_smul [DecidableEq ι] (i : ι) (c : R) (u : s i →ₗ[R] t i) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:548]: If you make these `protected`, then you don't need to adjust the proofs in the last three files in this PR.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 18 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Thanks, that's a useful trick ! Now the changes are all in one file.
